US08703953B2
Prepared as described in Example 8, Part C using (S)-tert-butyl(1-hydroxy-4-methylpentan-2-yl)carbamate and N-(8-chloro-7-methyl-5H-chromeno[3,4-c]pyridin-2-yl)acetamide to afford (S)-tert-butyl(1-((2-acetamido-7-methyl-5H-chromeno[3,4-c]pyridin-8-yl)oxy)-4-methylpentan-2-yl)carbamate (168 mg, 0.037 mmol, 11% yield) as a brown oil. LCMS (ESI) m/e 470.3 [(M+H)+, calcd for C26H36N3O5 470.3]; LC/MS retention time (Method F): tR=0.96 min.

reactant | (S)-tert-butyl(1-hydroxy-4-methylpentan-2-yl)carbamate | C(C)(C)(C)OC(N[C@H](CO)CC(C)C)=O | C11H23NO3
reactant | N-(8-chloro-7-methyl-5H-chromeno[3,4-c]pyridin-2-yl)acetamide | ClC=1C=CC2=C(C1C)OCC1=CN=C(C=C12)NC(C)=O | C15H13ClN2O2
product | (S)-tert-butyl(1-((2-acetamido-7-methyl-5H-chromeno[3,4-c]pyridin-8-yl)oxy)-4-methylpentan-2-yl)carbamate | 0.037 mmol, 168 mg, 11% yield | C(C)(C)(C)OC(N[C@H](COC=1C=CC2=C(C1C)OCC1=CN=C(C=C12)NC(C)=O)CC(C)C)=O | C26H35N3O5
